US05260293
t-Butyllithium (11.43 ml of a 1.4M solution in hexane, 16 mmol) was added dropwise to a rapidly stirred solution of 2-iodopyrazine (Hirschberg et al. J. Org. Chem., (1961), 26, 1907: 1.65 g, 8.0 mmol) in ether (60 ml). at -35° C. After 0.25 h a solution of quinuclidinone (1 g, 8.0 mmol) in ether (20 ml) was added dropwise and the reaction mixture warmed to room temperature and stirred for 2 h. Quenching with water (25 ml) was followed by extracting with dichloromethane (4×75 ml) and drying (Na2SO4). The residue remaining after evaporation of the solvents under reduced pressure was purified by chromatography on alumina (Grade II-III), using dichloromethane/methanol (93:7) as eluant, to give 3-(2-pyrazinyl)-1-azabicyclo[2.2.2]octan-3-ol as a red solid (0.5 g). The product was further purified by recrystallisation from ethyl acetate, m.p. 187°-190° C. (dec); (Found C, 64.24; H, 7.34; N, 20.68. C11H15N3O requires C, 64.39; H, 7.32: N, 20.49%); δ (360 MHz, CDCl3) 1.20-1.40 (1H m, CH of CH2); 1.50-1.70 (2H, m, CH2); 2.10-2.25 (1H, m, CH of CH2): 2.34 (1H, b rs, CH); 2.70-2.80 (2H, m, CH2 --N); 2.88-3.00 (3H, m, CH2 --N and CH of CH2 --N); 3.85 (1H, dd, J=1.5 and 16 Hz, CH of CH2 --N); 4.85 (1H, br s, OH); 8.54 (1H, d, J=2 Hz, pyrazine-H); 8.65 (1H, d, J=2 Hz, pyrazine-H); 8.89 (1H, d, J=2 Hz, pyrazine-H).

reactant | t-Butyllithium | C(C)(C)(C)[Li]
reactant | 2-iodopyrazine | 8.0 mmol, 1.65 g | IC1=NC=CN=C1 | C4H3IN2
reactant | quinuclidinone | 8.0 mmol, 1 g | N12C(CC(CC1)CC2)=O | C7H11NO
reactant | ether | 60 ml | CCOCC | C4H10O
reactant | ether | 20 ml | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | 3-(2-pyrazinyl)-1-azabicyclo[2.2.2]octan-3-ol | 0.5 g | N1=C(C=NC=C1)C1(CN2CCC1CC2)O | C11H15N3O
